US08242139B2
3-(4-chlorophenylamino)-4-ethoxycyclobut-3-ene-1,2-dione
To a refluxing solution of 3,4-diethoxycyclobut-3-ene-1,2-dione (1.05 g, 6.14 mmol) in ethanol (25 mL) was added an ethanol (10 mL) solution of 4-chloroaniline (0.784 g, 6.14 mmol) by syringe pump over 2 h. The heating bath was removed, and the reaction stirred at room temperature for 16 h. The reaction was concentrated under reduced pressure and purified by chromatography on SiO2 gel, eluting with 50% ethyl acetate in hexane to give the title compound. MS (ESI) m/z 252 [M+H]+.

reactant | 3,4-diethoxycyclobut-3-ene-1,2-dione | 6.14 mmol, 1.05 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 4-chloroaniline | 6.14 mmol, 0.784 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(4-chlorophenylamino)-4-ethoxycyclobut-3-ene-1,2-dione | ClC1=CC=C(C=C1)NC=1C(C(C1OCC)=O)=O | C12H10ClNO3
